US06706707B2
2-(3-Acetylamino-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester
The title compound, MS: m/e=326.8 (M+H+), was prepared in accordance with the general method of example 1b from N-(3-ethynyl-phenyl)-acetamide and 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester.

reactant | N-(3-ethynyl-phenyl)-acetamide | C(#C)C=1C=C(C=CC1)NC(C)=O | C10H9NO
reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
product | 2-(3-Acetylamino-phenylethynyl)-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)C#CC1=CC(=CC=C1)NC(C)=O)C | C18H19N3O3
